US08314088B2
3-[(1-methylethyl)sulfanyl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of 8-benzyl-3-[(1-methylethyl)sulfanyl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (111 mg) in toluene (3 mL) was added 1-chloroethyl chloroformate (0.042 mL), and the mixture was stirred at 80° C. for 4 hr. The reaction mixture was cooled to room temperature, and concentrated. The obtained residue was purified by silica gel column chromatography (solvent gradient; 3→40% ethyl acetate/hexane). To the obtained oil was added methanol (3 mL), and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, and concentrated. The obtained residue was purified by recrystallization (ethanol-diisopropyl ether) to give the title compound (19.2 mg, 21%) as pale-yellow crystals.

reactant | 8-benzyl-3-[(1-methylethyl)sulfanyl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 111 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)SC(C)C | C17H21N3OS
reactant | 1-chloroethyl chloroformate | 0.042 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(1-methylethyl)sulfanyl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 19.2 mg, 21% | Cl.CC(C)SC1=NC2=C(CNCCO2)N=C1 | InChI=1S/C10H15N3OS.ClH/c1-7(2)15-9-6-12-8-5-11-3-4-14-10(8)13-9;/h6-7,11H,3-5H2,1-2H3;1H
